US07915424B2
3-(3-Bromo-4-fluorophenylethynyl)-5-chloropyridine
Add bis(triphenylphosphine)palladium (II) dichloride (77 mg, 0.11 mmol), copper (I) iodide (42 mg, 0.22 mmol), and 3-chloro-5-ethynylpyridine, (prepared as described in PREPARATION 27), (300 mg, 2.2 mmol) to a solution of 2-bromo-1-fluoro-4-iodobenzene, (prepared as described in PREPARATION 43), (0.78 g, 2.6 mmol) in triethylamine (3.3 mL, 33 mmol). Stir at room temperature for 24 h then concentrate. Purify by silica gel chromatography, eluting with 75:25 dichloromethane:hexanes to 100:0 dichloromethane:hexanes to 95:5 dichloromethane:ethyl acetate, followed by a second silica gel chromatography, eluting with 95:5 to 90:10 hexanes:ethyl acetate, to give the title compound as a white solid (560 mg, 82%).

reactant | 3-chloro-5-ethynylpyridine | 2.2 mmol, 300 mg | ClC=1C=NC=C(C1)C#C | C7H4ClN
reactant | 2-bromo-1-fluoro-4-iodobenzene | 2.6 mmol, 0.78 g | BrC1=C(C=CC(=C1)I)F | C6H3BrFI
reactant | triethylamine | 33 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.11 mmol, 77 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.22 mmol, 42 mg | [Cu]I
product | 3-(3-Bromo-4-fluorophenylethynyl)-5-chloropyridine | 560 mg, 82% | BrC=1C=C(C=CC1F)C#CC=1C=NC=C(C1)Cl | C13H6BrClFN
